US07214673B2
(S,S)-2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-1-phenyl-ethanol
Add formaldehyde (23 μL, 0.29 mmol, 37% in water) to a solution of (S,S)-2-[4-(2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol (117 mg, 0.26 mmol) in dichloroethane (5 mL). Stir 15 min at ambient temperature. Add sodium triacetoxyborohydride (83 mg, 0.39 mmol) and stir 2 h at ambient temperature. Dilute with saturated sodium bicarbonate solution and extract with methylene chloride. Dry the extracts with sodium sulfate, filter and concentrate the filtrate. Purify by radial silica gel chromatography using a 2 mm plate and 2N ammonia in methanol-methylene chloride (1%–4%) as the eluent to give 68 mg (56%) of the title compound: mass spectrum (ion spray): m/z=462 (M+1), 460 (M−1). HR-MS calculated for C26H32N5OS: 462.2328. Found 462.2322. 1H NMR (DMSO-d6): δ 7.82 (s, 1H), 7.35–7.18 (m, 5H), 6.91–6.76 (m, 3H), 6.69 (br d, 1H), 5.29 (s, 1H), 4.58–4.46 (m, 1H), 4.14–3.77 (m, 2H), 3.02–3.17 (m, 2), 2.90 (dd, 1H), 2.74–2.65 (m, 1H), 2.28–2.11 (m, 1H), 2.14 (s, 3H), 2.03–1.84 (m, 2H) 1.70–1.54 (m, 1H), 1.26 (d, 6H).

reactant | formaldehyde | 0.29 mmol, 23 μL | C=O | CH2O
reactant | (S,S)-2-[4-(2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-1-phenyl-ethanol | 0.26 mmol, 117 mg | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)C[C@H](O)C3=CC=CC=C3 | C25H29N5OS
reactant | sodium triacetoxyborohydride | 0.39 mmol, 83 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S,S)-2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-1-phenyl-ethanol | 68 mg, 56% | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)C[C@H](O)C3=CC=CC=C3 | C26H31N5OS
